US07351857B2
A 3-neck flask, equipped with a reflux condensor and mechanical stirrer, is charged with EtOH (115 mL) and dimethylthiocarbamic acid S-[6-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-5,6,7,8-tetrahydronaphthalen-2-yl] ester (8.7 g; 23.5 mmol). Hydrazine (6.6 mL; 2.11 mol) is added in 1-portion at RT and the reaction was refluxed with mechanical stirring for 40 min. The reaction is cooled to RT and the gelatinous, white solid is filtered and washed thoroughly with ether. The ether washes are combined, evaporated under reduced pressure and the crude residue was further triturated with ether, filtered and the ether evaporated under reduced pressure to afford 6.1 g (100%) of dimethylthiocarbamic acid S-[6-amino-5,6,7,8-tetrahydronaphthalen-2-yl) ester as a yellow oil.

reactant | dimethylthiocarbamic acid S-[6-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-5,6,7,8-tetrahydronaphthalen-2-yl] ester | 23.5 mmol, 8.7 g | O=C1N(C(C2=CC=CC=C12)=O)C1CC=2C=CC(=CC2CC1)SC(N(C)C)=O | C21H20N2O3S
reactant | Hydrazine | 2.11 mol, 6.6 mL | NN | H4N2
solvent | EtOH | 115 mL | CCO | C2H6O
product | dimethylthiocarbamic acid S-[6-amino-5,6,7,8-tetrahydronaphthalen-2-yl) ester | 6.1 g, 100% | NC1CC=2C=CC(=CC2CC1)SC(N(C)C)=O | C13H18N2OS
